Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Percocet / Demerol / lactose
 
Attending: ___.
 
Chief Complaint:
Abdominal distention and cramping  
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ PMHx myeloid metaplasia s/p bone marrow transplant in ___
(considered cured), HLD who presents with acute on chronic
abdominal distension and cramping.

Per report from outpatient PCP, patient has had "sx of
distention, bloating, and discomfort over the past month and
these have progressively worsened so that she is symptomatic at
all times. Intermittently, she will have what she describes as
severe "cramping" which has awakened her from sleep most nights
and also causes her to bend in pain during the day, but the
cramping lasts minutes only and then returns to baseline. Denies
fevers, chills, sweats, but has been generally feeling unwell,
fatigued and not herself. She had had abnormal LFTs for years
within Atrius system, most recent LFTs wnl in ___, but has 
not
had other synthetic function checked.

She was referred for outpatient CT scan, which resulted with
loculated pelvic fluid collections, new ascites, ?cirrhosis, and
soft tissue mesenteric nodularity all concerning for possible
malignancy v. infection. In this context she was referred to
___ for admission, medical and surgical consultations. She was
to travel to ___ tomorrow for a week. 

PMHx is notable for hx of myeloid metaplasia and underwent BMT 
at
___  in ___.  In ___, had 6 week hospitalization for
pseudomonas infection (details not entirely clear, but ? 
Multiple
sites of abscesses/sepsis).  
       
In the ED, initial VS were: 96.7, 94, 168/106, 18, 100% RA   
Exam notable for: Abd minimally tender diffusely, No asterixis,
caput, clonus, jaundice or icterus  
Labs showed: ___  
Imaging showed: RUQ US no cirrhosis, small amount of ascites and
cholelithiasis   
Consults: Surgery was consulted, recommended admission to
medicine for further w/u. No acute surgical needs.   
Patient received: Nothing  
Transfer VS were: 98, 90, 136/79, 16, 99% RA
   
On arrival to the floor, patient reports the above symptoms.
Reports minimal abdominal pain currently but usually feels
discomfort around ___, waking her up from sleep. She usually
walks around the house at night which helps the pain. Endorses
constipation with small infrequent bowel movements, usually 
every
other day. Is UTD with pelvic exams (at PCP), mammograms (once
every year, normal) and colonsoscopy ___ years ago with PCP 
without
abnormality. She reports weight loss, weighing approximately 133
at ___ office last month and now ___ on admission here.
Eating less given poor appetite. Trying to focus on high protein
diet to ensure she is getting nutrients. She follows with
oncologist at ___ once yearly. She has mild skin GVH but is no
longer on prednisone for this.  

 
Past Medical History:
Myeloid metaplasia s/p Bone marrow transplant  
Mitral valve prolapse 
Vaginal enterocele 
Hypercholesteremia 
Traumatic closed displaced fracture of tibial plafond with 
fibula
HPV in female 
Osteopenia 
Fracture of left olecranon process 
Left hip pain 
 
Social History:
___
Family History:
Maternal Grandfather  Cancer 
Mother  Cancer - Breast; Cancer - Uterine 
Other  Diabetes; Hypertension 
Paternal Grandfather  Cancer - ___ 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS: 98.7, 142/89, 93 18 95 RA 
GENERAL: NAD, sitting comfortably in chair   
HEENT: AT/NC, EOMI, PERRL, left mild conjunctival hemorrhage, 
MMM
NECK: supple, no submandibular or supraclavicular LAD   
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: nondistended, +BS, tender to light palpation LLQ and
RLQ. no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no excoriations or lesions  

DISCHARGE PHYSICAL EXAM:  
VS:  98.1 121/78 87 16 96 Ra 
GENERAL: NAD, sitting comfortably in chair   
HEENT: AT/NC, EOMI, PERRL, MMM
NECK: supple, no submandibular or supraclavicular LAD   
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: nondistended, +BS, tender to light palpation LLQ and
RLQ. no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no excoriations or lesions  
 
Pertinent Results:
Admission labs
___ 06:54PM BLOOD WBC-6.1 RBC-4.61 Hgb-13.4 Hct-41.0 MCV-89 
MCH-29.1 MCHC-32.7 RDW-12.4 RDWSD-40.3 Plt ___
___ 06:54PM BLOOD Neuts-60.0 ___ Monos-11.1 
Eos-0.5* Baso-0.3 Im ___ AbsNeut-3.64 AbsLymp-1.69 
AbsMono-0.67 AbsEos-0.03* AbsBaso-0.02
___ 06:54PM BLOOD ___ PTT-29.4 ___
___ 06:54PM BLOOD Glucose-83 UreaN-12 Creat-0.7 Na-141 
K-4.6 Cl-99 HCO3-24 AnGap-18
___ 06:54PM BLOOD ALT-20 AST-28 LD(LDH)-386* AlkPhos-88 
TotBili-0.4
___ 06:54PM BLOOD Lipase-39
___ 06:54PM BLOOD Albumin-4.1 Calcium-9.0 Phos-3.0 Mg-2.1
___ 06:54PM BLOOD %HbA1c-5.5 eAG-111
___ 06:54PM BLOOD TSH-3.3
___ 06:54PM BLOOD HCG-<5
___ 06:54PM BLOOD CRP-82.4* CEA-1.5 AFP-2.0 CA125-46*
___ 06:54PM BLOOD HCV Ab-NEG
___ 07:00PM BLOOD Lactate-1.1

Imaging
RUQ US ___ 
1. No sonographic hepatic parenchymal abnormality to suggest
cirrhosis. Small intra-abdominal ascites.
2. Cholelithiasis

CT Chest ___  
1. No evidence of intrathoracic malignancy.  No acute 
intrathoracic process.
2. Limited evaluation of the upper abdomen demonstrate findings 
suggestive of cirrhosis with portal hypertension including 
perisplenic varices, possible splenorenal shunt and small volume 
ascites 

Discharge labs
___ 07:25AM BLOOD WBC-4.9 RBC-4.23 Hgb-12.2 Hct-37.9 MCV-90 
MCH-28.8 MCHC-32.2 RDW-12.6 RDWSD-40.7 Plt ___
___ 07:25AM BLOOD Neuts-59.5 ___ Monos-10.2 
Eos-0.8* Baso-0.4 Im ___ AbsNeut-2.93 AbsLymp-1.41 
AbsMono-0.50 AbsEos-0.04 AbsBaso-0.02
___ 07:25AM BLOOD Glucose-75 UreaN-13 Creat-0.5 Na-142 
K-4.0 Cl-102 HCO3-26 AnGap-14
___ 07:25AM BLOOD ALT-16 AST-19 LD(LDH)-244 AlkPhos-78 
TotBili-0.4
___ 07:25AM BLOOD Albumin-3.7 Calcium-8.5 Phos-3.2 Mg-2.1
 
Brief Hospital Course:
Summary
___ PMHx myeloid metaplasia s/p bone marrow transplant in ___ 
(considered cured), HLD who presents with acute on chronic 
abdominal distension and cramping, found to have loculated 
pelvic fluid collections, new ascites and soft tissue mesenteric 
nodularity concerning for malignancy v. infection. She was 
clinically stable and will follow with gynecology as outpatient 
for further workup. 

# Abdominal bloating, distention 
# Weight loss
# Loculated pelvic fluid collections
# Mesenteric soft tissue nodularity 
Patient presents with months of worsening abdominal distention, 
bloating, cramping sensation, referred for outpatient CT scan 
with results as detailed above, notably multiple pelvic 
loculated fluid collections concerning for abscesses, new 
ascites, portal HTN, ?cirrhosis and mesenteric soft tissues 
nodularity. In total, most concerning for new malignancy 
(especially given concurrent weight loss), GYN, ovarian highest 
on the differential given location of soft tissue mesenteric 
nodules. No bowel obstruction to explain symptoms. Consider 
infectious etiology for loculated pelvic fluid collections. Exam 
notable for abdominal TTP,
otherwise benign, evaluated by surgery in the ED without acute 
surgical intervention. Reassuringly, afebrile without 
leukocytosis. Was stable off antibiotics and suspect this is not 
infectious. A CT chest was done without any lesions identified. 
After discussion with interventional radiology, gynecology and 
gyn-onc, decision was made to discharge patient home and follow 
for additional workup as an outpatient. She remained stable and 
clinically well throughout admission. 

# Nephrolithiasis
Incidentally noted on CT, asymptomatic. 

# Intra-abdominal ascites 
# Portal HTN
# ?Cirrhosis 
Patient presents with radiographic e/o of portal HTN (enlarged 
portal vein, enlarged splenic vein, gastric varices) on CT scan 
with small intra-abdominal ascites. OSH CT and ___ RUQ US are 
discordant with regards to e/o cirrhosis (CT suggest cirrhosis, 
RUQUS without e/o cirrhosis). LFTs normal, no stigmata of 
cirrhosis on exam. Suspect this is more likely related to her 
pelvic process. Would recommend ascites sampling as above, with 
SAAG. Could also non-urgently be evaluated by hepatology. 

CHRONIC ISSUES: 
===============
# HDL. Continued simvastatin
# Anxiety. Continued Ativan prn 
# Menopause. Held Vagifem inpatient pending malignancy w/u as 
above
# S/p BMT for myeloid metaplasia (___), c/b skin GVHD previous 
on prednisone now off. Considered cured. Followed yearly by 
oncologist at ___. 

# Transitional issues
- Held vagifem on discharge. 
- ___ pending at discharge. 
- Will follow with ___ gynecology for coordination of 
additional workup, will involve ___ GYN-ONC if appropriate and 
they are aware of patient. 
- As above, CT findings concerning for portal hypertension and 
cirrhosis, but this was not evident on RUQUS at ___. Consider 
repeat evaluation as outpatient and non-urgent hepatology 
referral. 
- On CT scan, nodular thickening of the left adrenal gland is 
incompletely characterized. Comparison can be made if prior 
imaging becomes available. Otherwise, non urgent dedicated 
adrenal CT can provide further assessment. 

#CODE: Full (presumed) 
#CONTACT: Husband ___ ___ (cell) 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Simvastatin 20 mg PO QPM 
2. LORazepam 0.5-1 mg PO QHS:PRN insomnia, anxiety  
3. Vagifem (estradiol) 10 mcg vaginal 2X/WEEK 
4. Psyllium Powder 1 PKT PO TID:PRN constipation 

 
Discharge Medications:
1.  LORazepam 0.5-1 mg PO QHS:PRN insomnia, anxiety   
2.  Psyllium Powder 1 PKT PO TID:PRN constipation  
3.  Simvastatin 20 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Pelvic collections, infection vs malignancy

Secondary: 
HLD
Anxiety
Menopause

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital because of your upset stomach 
and abnormal CT scan.

WHAT HAPPENED WHILE YOU WERE HERE:
- Our radiology and gynecology experts evaluated you.
- They would like to see you in clinic and get some more 
information

It was a pleasure taking care of you, best of luck. Your ___ 
medical team
 
Followup Instructions:
___